US04556672
To a stirred slurry of 100 g (0.55 mol) of 5-chloroisatin in 930 ml of ethanol was added 40 ml (0.826 mol) of hydrazine hydrate, resulting in a red solution. The solution was heated under reflux for 3.5 hours, during which time a precipitate appeared. The reaction mixture was stirred overnight, and then the precipitate was recovered by filtration to give 5-chloro-3-hydrazono-2-oxindole as a yellow solid, which was dried in a vacuum oven. The dried solid weighed 105.4 g.

reactant | 5-chloroisatin | 0.55 mol, 100 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | hydrazine hydrate | 0.826 mol, 40 ml | O.NN
solvent | ethanol | 930 ml | C(C)O | C2H6O
product | 5-chloro-3-hydrazono-2-oxindole | ClC=1C=C2C(C(NC2=CC1)=O)=NN | C8H6ClN3O
